Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
aspirin / Iodinated Contrast- Oral and IV Dye / clindamycin / 
Penicillins
 
Attending: ___
 
Chief Complaint:
Right face and hand numbness

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a healthy ___ woman who presents with 
right
facial numbness since 4 AM this morning, in the setting of 2
weeks scalp numbness.  She was last known well 2 AM. 

She developed numbness and tingling at the apex of her scalp on
___.  She saw her PCP who planned to order an MRI, but told
her to presents to an ED should her symptoms worsen.  This
morning at 4 AM she woke up and noticed right hemifacial 
numbness
and subtle tingling, most concentrated in the lower half of her
face.  Over the course of the day today she has also felt that
her speech is slowed and response times are delayed. This is
corroborated by her son. She also has a right retro-orbital
headache with dull pressure quality which she has never had
before. She has no history of migraine, and rarely gets typical
headaches.  There has been no nausea, nor photophobia, but she
does note increased sound sensitivity only in her right ear. 

Over the course of the day today she has also noticed
intermittent tingling paresthesias in her right hand focused 
over
the middle and ring fingers, and half of the adjacent palm. 

She has no recent illnesses, though her adult son who 
accompanied
her had a prolonged respiratory infection ~2 months ago, which
she contracted but experienced only mild symptoms.

ROS: 
On neurological review of systems, she endorses numbness,
paresthesia, headache, slowed speech, and delayed response 
times.

She denies blurry/double vision, dysarthria, dysphagia, vertigo,
tinnitus, focal weakness, incontinence, or gait difficulty. 

On general review of systems, the patient denies recent fever or
recent weight changes. Denies cough or chest pain. Denies 
nausea,
vomiting, diarrhea, constipation or abdominal pain.  
 

 
Past Medical History:
Insomnia
GERD
 
Social History:
___
Family History:
No family history of migraine, seizure, or stroke.    
 
Physical Exam:
ADMISSION EXAM:

NIHSS Performed within 6 hours of presentation at: 20:00  
NIHSS Total: 2
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 1
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7.  Limb Ataxia: 0
8.  Sensory: 1
9.  Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0
 
PHYSICAL EXAMINATION: 
Vitals: T: 97.9   HR: 63   BP: 137/69   RR: 16   SaO2:100%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx. No tenderness at stylomastoid foramen. 
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted initially. Developed urticaria
after IV contrast.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive answering detailed questions 
during
interview. Language is fluent with intact repetition and
comprehension. Normal prosody, though speech slowed compared to
her baseline (per son). There were no paraphasic errors. Able to
name both high and low frequency objects.  Able to read without
difficulty. No dysarthria. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation. Fundoscopic exam revealed no
papilledema, exudates, or hemorrhages.
V: Facial sensation decreased to light touch and temperature 
(%75
of normal) on right hemiface, mostly over cheek (V2>V3>V1) ~1cm
to the right of midline. Muscles of mastication full strength. 
VII: Mild right lower facial droop. 
VIII: Hearing intact to finger-rub bilaterally. Weber localizes
to left ear prominently and repeatedly. ___ normal 
bilaterally.
(Suggesting right ear sensorineural loss.)
IX, X: Unable to visualize palate. 
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: Deficits to light touch and temperature in right face
and scalp as noted above. Also decreased in ~10cm area at crown
of scalp. No deficits to light touch, pinprick, or temperature
elsewhere, including in right hand. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2            1      2     2
R   2            1      2     2 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF.

-Gait: Deferred. 

Discharge Exam:
PHYSICAL EXAMINATION: 
Vitals: T: 97.9-98.1   HR: 56-71  BP: 113/67-133/76   RR: 18  
SaO2:100%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, 
Neck: Supple. No nuchal rigidity. Mild left sided tenderness to 
palpation.
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted initially.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive answering detailed questions 
during
interview. Language is fluent. Normal prosody. There were no 
paraphasic errors. No dysarthria. Able to follow both midline 
and appendicular commands.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation. 
V: Facial sensation decreased to light touch and sharp touch 
(%85
of normal) on right lower face near corner of mouth. Muscles of 
mastication full strength. 
VII: Subtle asymmetry of nasolabial folds with deeper crease on 
the left but symmetric activation on the right.
VIII: Hearing intact to finger-rub bilaterally. 
IX, X: Palate symmetrically activates
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: Deficits to light touch and sharp touch around the 
right lower face. Sharp touch intact on the upper face, over on 
all extremities and over the scalp. Other modalities intact. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2            1      2     2
R   2            1      2     2 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF.

-Gait: Stable normal based gait. 
 
Pertinent Results:
CTA HEAD AND NECK: 
The vessels of the circle of ___ and their principal 
intracranial branches 
appear normal without significant stenosis,occlusion,or aneurysm 
formation.  
The dural venous sinuses are patent. 
The carotid and vertebral arteries and their major branches 
appear normal with 
no evidence of significant stenosisorocclusion. 
  
Final read pending 3D reformats. 
  
Of note during the examination following contrast injection with 
70 cc of 
Optiray patient developed 2 hives in complained of skin 
itchiness. No 
additional clinical findings were discovered on examination. 
This information 
was relayed to ED team taking care patient. 
 

Head CT FINDINGS:  
  
There is no evidence of acute large territory infarction, 
hemorrhage, edema, 
or mass effect.  The ventricles and sulci are normal in size and 

configuration. 
  
No acute fracture is seen.  The paranasal sinuses, mastoid air 
cells, and 
middle ear cavities are clear. 
  
IMPRESSION:  
  
No acute intracranial abnormalities. 
  

___ 07:21PM BLOOD WBC-5.8 RBC-5.61* Hgb-12.4 Hct-39.5 
MCV-70* MCH-22.1* MCHC-31.4* RDW-17.0* RDWSD-39.6 Plt ___
___ 10:22PM BLOOD K-4.2
___ 07:21PM BLOOD Glucose-173* UreaN-10 Creat-0.7 Na-139 
Cl-100 HCO3-24 AnGap-15
___ 07:21PM BLOOD ALT-28 AST-60* AlkPhos-58 TotBili-0.6
___ 07:21PM BLOOD Albumin-4.3 Cholest-231*
___ 07:21PM BLOOD Triglyc-112 HDL-60 CHOL/HD-3.9 
LDLcalc-149*
___ 02:30AM BLOOD %HbA1c-5.7 eAG-117
___ 07:21PM BLOOD TSH-1.5
___ 07:21PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Ms. ___ is a healthy ___ year old woman with GERD who 
presented with several hours of right lower face tingling and 
numbness with some weakness and intermittent tingling in the 
right finger tips. She has also had 2 weeks of scalp numbness. 
On initial examination she was noted to have subtle right 
nasolabial fold flattening and decreased sensation to sharp 
touch in the right face and scalp but no diplopia, normal 
reflexes, normal strength and sensation in the extremities, 
normal temporal pulses. Prior to discharge she had improvement 
of her numbness and had just residual decreased sensation in the 
right lower face. CT head showed now intracranial abnormalities 
and CTA head and neck was normal without evidence of stenosis or 
occlusion. Patient denied history of migraine headaches. She 
reported some neck pain and tightness. Differential includes 
cervical spondylosis and cranial neuropathy. She was evaluated 
for risk factors for stroke and found to have HgA1c 5.7%, LDL 
149. There is low suspicious for stroke given normal vessel 
imaging in otherwise healthy patient. Examination is not 
consistent with bell's palsy. Discussed recommendation to obtain 
MRI brain w/ w/o contrast and cervical spine MRI while inpatient 
however patient preferred to obtain these images as an 
outpatient with referral through her PCP. Given her clinical 
stability this is reasonable. 

Transitional Issues: 
[ ] Follow up with PCP
[ ] PCP to obtain MRI brain w/ and w/o contrast (to look at 
cranial nerves) and cervical spine MRI
[ ] F/u elevated AST 60
[ ] F/u possible right sensorineural hearing loss
[ ] follow up with neurology if needed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 75 mg PO DAILY 
2. melatonin 3 mg oral QPM 

 
Discharge Medications:
1.  melatonin 3 mg oral QPM  
2.  Ranitidine 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right lower face numbness

 
Discharge Condition:
Patient is alert and oriented. She is able to ambulate 
independently. 

 
Discharge Instructions:
Dear Ms. ___,  

 You were hospitalized due to symptoms of right lower face 
numbness. You had a normal brain CT and normal vessel imaging. 
Your symptoms improved significant prior to discharge. We do not 
know the exact cause of your symptoms at this time and would 
like you to follow up with your primary care doctor to have 
outpatient imaging.

 Please take your medications as prescribed.  

 Please follow up with your primary care physician as listed 
below. 

 If you have any new or worsening symptoms and would like to 
schedule an appointment with neurology please call ___. 
 

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, please pay attention to 
the sudden onset and persistence of these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  

 Your ___ Neurology Team  

 
Followup Instructions:
___